US07323455B2
4-(5-Ethyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-furonitrile
Prepared from 7-bromo-5-ethyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 4-bromo-2-cyanofuran generally according to the procedures described in examples 82 and 1. A white solid: mp 99-100° C.; 1H NMR (DMSO-d6): δ 10.04 (s,1H), 8.60 (s, 1H), 8.17 (s, 1H), 7.54-7.61 (m, 3H), 7.22 (d, J=8.45 Hz, 1H), 6.99 (dd, J=4.99, 3.60 Hz, 1H), 6.90 (dd, J=3.48, 1.02 Hz, 1H), 4.40, (d, J=15.42, 1H), 3.94 (d, J=15.47 Hz, 1H), 2.5 (m, 2H), 0.76 (t, J=7.02 Hz, 3H); MS (ESI) m/z 365 ([M+H]+); MS (ESI) m/z 363 ([M−H]−); Anal. calcd for C20H16N2O3S: C: 65.92; H: 4.43; N: 7.69. Found: C: 64.84; H: 4.59; N: 6.98.

reactant | 7-bromo-5-ethyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)CC)C1 | C15H14BrNO2S
reactant | 4-bromo-2-cyanofuran | BrC=1C=C(OC1)C#N | C5H2BrNO
product | 4-(5-Ethyl-2-oxo-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-furonitrile | C(C)C1(OCC(NC2=C1C=C(C=C2)C=2C=C(OC2)C#N)=O)C=2SC=CC2 | C20H16N2O3S
